US07700641B2
C. Synthesis of 3-(5-bromo-2-hydroxyphenyl)-1-(diphenylmethyl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one
Following the procedure as described in PREPARATION 26C, and making non-critical variations to replace 1-(diphenylmethyl)-3-(5-hydroxy-2,3-dihydro-1-benzofuran-6-yl)-1,3-dihydro-2H-indol-2-one with 3-(5-bromo-2-hydroxyphenyl)-1-(diphenylmethyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained: MS (ES+) m/z 500.4 (M+1), 502.4 (M+1).

reactant | 1-(diphenylmethyl)-3-(5-hydroxy-2,3-dihydro-1-benzofuran-6-yl)-1,3-dihydro-2H-indol-2-one | C1(=CC=CC=C1)C(N1C(C(C2=CC=CC=C12)C1=CC2=C(CCO2)C=C1O)=O)C1=CC=CC=C1 | C29H23NO3
reactant | 3-(5-bromo-2-hydroxyphenyl)-1-(diphenylmethyl)-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1C(N(C2=CC=CC=C12)C(C1=CC=CC=C1)C1=CC=CC=C1)=O)O | C27H20BrNO2
product | 3-(5-bromo-2-hydroxyphenyl)-1-(diphenylmethyl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | BrC=1C=CC(=C(C1)C1(C(N(C2=CC=CC=C12)C(C1=CC=CC=C1)C1=CC=CC=C1)=O)CO)O | C28H22BrNO3
